US07951810B2
Step c: {(2R,3S,5R)-5-[5-Ethynyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate (I-135)
To a solution of (2R,3S,5R)-2-{[(aminosulfonyl)oxy]methyl}-5-{4-(2-phenylethyl)-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}tetrahydrofuran-3-yl acetate (0.254 g, 0.457 mmol) in MeOH (5 mL) at r.t. was added K2CO3 (0.168 g, 1.22 mmol) and the mixture was stirred for 2 h. The reaction mixture was diluted with CH2Cl2, washed with saturated aq NaHCO3 dried over MgSO4, filtered, and concentrated. The residue was purified by flash chromatography (0 to 10% MeOH/DCM) to give the title compound (0.126 g, 62%).

reactant | (2R,3S,5R)-2-{[(aminosulfonyl)oxy]methyl}-5-{4-(2-phenylethyl)-5-[(trimethylsilyl)ethynyl]-7H-pyrrolo[2,3-d]pyrimidin-7-yl}tetrahydrofuran-3-yl acetate | 0.457 mmol, 0.254 g | C(C)(=O)O[C@@H]1[C@H](O[C@H](C1)N1C=C(C2=C1N=CN=C2CCC2=CC=CC=C2)C#C[Si](C)(C)C)COS(=O)(=O)N | C26H32N4O6SSi
reactant | K2CO3 | 1.22 mmol, 0.168 g | C(=O)([O-])[O-].[K+].[K+]
solvent | MeOH | 5 mL | CO | CH4O
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | {(2R,3S,5R)-5-[5-Ethynyl-4-(2-phenylethyl)-7H-pyrrolo[2,3-d]pyrimidin-7-yl]-3-hydroxytetrahydrofuran-2-yl}methyl sulfamate | 0.126 g, 62% | S(N)(OC[C@H]1O[C@H](C[C@@H]1O)N1C=C(C2=C1N=CN=C2CCC2=CC=CC=C2)C#C)(=O)=O | C21H22N4O5S
